US09024019B2
2-[6-(5,5-dimethyl-4H-isoxazol-3-yl)-4-[(E)-(5-fluoro-3-pyridyl)methylene amino]-3-oxo-5H-1,2,4-triazin-2-yl]acetonitrile (Compound 3.185)
To a solution of 6-(5,5-dimethyl-4H-isoxazol-3-yl)-4-[(E)-(5-fluoro-3-pyridyl)methyleneamino]-2,5-dihydro-1,2,4-triazin-3-one (150 mg, 0.471 mmol) in anhydrous THF (8.0 mL) was added NaH (28.2 mg, 0.707 mmol) at 0° C. under nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 10 min followed by dropwise addition of 2-bromoacetonitrile (36.2 μL, 62.2 mg, 0.518 mmol). The reaction mixture was allowed to warm to room temp. and stirring was continued for 2 h. The reaction mixture was quenched by addition of methanol followed by ice. The organic layer was evaporated in rotavap and aqueous layer extracted with ethyl acetate. The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to furnish the crude product. Purification by flash chromatography (60-70% EtOAc/hexanes) provided the desired product as a white solid. M.p. 195-197° C.

reactant | 6-(5,5-dimethyl-4H-isoxazol-3-yl)-4-[(E)-(5-fluoro-3-pyridyl)methyleneamino]-2,5-dihydro-1,2,4-triazin-3-one | 0.471 mmol, 150 mg | CC1(CC(=NO1)C=1CN(C(NN1)=O)/N=C/C=1C=NC=C(C1)F)C | C14H15FN6O2
reactant | NaH | 0.707 mmol, 28.2 mg | [H-].[Na+]
reactant | 2-bromoacetonitrile | 0.518 mmol, 36.2 μL, 62.2 mg | BrCC#N | C2H2BrN
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | 2-[6-(5,5-dimethyl-4H-isoxazol-3-yl)-4-[(E)-(5-fluoro-3-pyridyl)methylene amino]-3-oxo-5H-1,2,4-triazin-2-yl]acetonitrile | CC1(CC(=NO1)C=1CN(C(N(N1)CC#N)=O)/N=C/C=1C=NC=C(C1)F)C | C16H16FN7O2
